US07872026B2
In a manner similar to that of Example 1c, by reaction of 600 mg (1.15 mmol) of ethyl 4′-(2-bromoethoxy)-3′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphth-2-yl)biphenyl-4-carboxylate with 800 μl (11.5 mmol) of cyclopropylamine in 100 ml of ethanol. 360 mg of ethyl 4′-(2-cyclopropylaminoethoxy)-3′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphth-2-yl)biphenyl-4-carboxylate are obtained in the form of a white solid (m.p.=141° C., yield=63%).

reactant | ethyl 4′-(2-bromoethoxy)-3′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphth-2-yl)biphenyl-4-carboxylate | 1.15 mmol, 600 mg | BrCCOC1=C(C=C(C=C1)C1=CC=C(C=C1)C(=O)OCC)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C31H35BrO3
reactant | cyclopropylamine | 11.5 mmol, 800 μl | C1(CC1)N | C3H7N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | ethyl 4′-(2-cyclopropylaminoethoxy)-3′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphth-2-yl)biphenyl-4-carboxylate | 360 mg | C1(CC1)NCCOC1=C(C=C(C=C1)C1=CC=C(C=C1)C(=O)OCC)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C34H41NO3
